* Gateway 2.12.10.R Spice Netlist Generator
* Workspace name:       K:\work.workspace
* Simulation name:      K:\Final Report Data\Schematics\INVDynamic.schlr
* Simulation timestamp: 10-6-2015 17:40:09

* Schematic name: INVDynamic
C1 Y GND 100n
M1 Y A NET1 NET1 NMOD L=LN W=WN
M2 Y clk VDD VDD PMOD L=LP W=WP
M3 NET1 clk GND GND NMOD L=LN W=WN

* Global Nodes Declarations
.GLOBAL GND VDD

* End of the netlist
